US07816526B2
Synthesis of 3-chloro-6-isopropylpyridazine
6-Isopropyl-3 (2H)-pyridazinone (3.30 g) and phosphorus oxychloride (15.0 ml) were heated for 1 hour under reflux. After an excess of phosphorus oxychloride was distilled away, ice-water (200 ml) was added to the residues which were then adjusted to pH 6 with 20% aqueous sodium hydroxide solution. The reaction solution was extracted 3 times with ethyl acetate, and the extracts were combined, dried over anhydrous magnesium sulfate and concentrated. The residues were purified by silica gel column chromatography (ethyl acetate:chloroform=1:2) to give the title compound as pale red crystals. The yield was 1.60 g (40.8% based on 5-methyl-4-oxohexanoic acid). mp 32-33° C.

reactant | 6-Isopropyl-3 (2H)-pyridazinone | 3.30 g | C(C)(C)C=1C=CC(NN1)=O | C7H10N2O
reactant | phosphorus oxychloride | 15.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-isopropylpyridazine | ClC=1N=NC(=CC1)C(C)C | C7H9ClN2
